US09120749B2
1-[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl]ethanone
Following general procedure D, 1-(6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)ethanone (17.7 mg, 0.045 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (28 mg, 0.100 mmol) to afford the desired product (10.4 mg, 49%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 8.76 (s, 1H), 8.32 (d, J=1.3 Hz, 1H), 8.07-7.97 (m, 2H), 7.31 (d, J=2.1 Hz, 1H), 7.25 (d, J=2.1 Hz, 1H), 4.00 (s, 3H), 3.48 (d, J=12.5 Hz, 2H), 3.16 (t, J=11.5 Hz, 2H), 2.68 (s, 3H), 2.43 (d, J=6.6 Hz, 2H), 2.36 (s, 6H), 2.01-1.85 (m, 3H), 1.67-1.54 (m, 2H); ESI MS m/z 468 [C26H30ClN3O3+H]+; HPLC>99% (AUC), tR=10.12 min.

reactant | 1-(6-bromo-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl)ethanone | 0.045 mmol, 17.7 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N1CCC(CC1)CN(C)C | C19H24BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.100 mmol, 28 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | 1-[6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-{4-[(dimethylamino)methyl]piperidin-1-yl}quinolin-3-yl]ethanone | 10.4 mg, 49% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N1CCC(CC1)CN(C)C | C26H30ClN3O3
